US04837238
7-Allylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylic acid (D3)
Ethyl 7-allylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (5.0 g, 20 mmol) was added to a solution of sodium hydroxide (2.4 g, 60 mmol) in water (100 ml) and heated under reflux for 60 min. The solution was filtered, diluted with water (200 ml) and made neutral with 5N hydrochloric acid. The solid was filtered off, washed with water and dried to give the title compound (4.25 g, 96%), m.p. 240°-242° C.

reactant | Ethyl 7-allylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 20 mmol, 5.0 g | C(C=C)NC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C12H14N4O2
reactant | sodium hydroxide | 60 mmol, 2.4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 7-Allylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylic acid | 4.25 g, 96% | C(C=C)NC1=C2C(=NC=C1C(=O)O)C=NN2 | C10H10N4O2
